US05536725
This compound is prepared in a manner analogous to that of Step D of Example 2, using 6.2 grams (0.018 mole) of 8-(2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl)-1,4-dioxaspiro[4.5]decane and 25 mL of water in 100 mL of acetic acid, yielding 4-(2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl)cyclohexanone.

reactant | 8-(2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl)-1,4-dioxaspiro[4.5]decane | 0.018 mole, 6.2 grams | FC1(OC2=C(C1(F)F)C=CC=C2CC2CCC1(OCCO1)CC2)F | C17H18F4O3
reactant | water | 25 mL | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-(2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl)cyclohexanone | FC1(OC2=C(C1(F)F)C=CC=C2CC2CCC(CC2)=O)F | C15H14F4O2
